US06765003B1
Preparation of 3-[(4′-chloro[1,1′-biphenyl]-4-yl)sulfonyl]-N-hydroxy-2-[(phenylsulfanyl)methyl]propanamide
TBTU (0,72 g) was added portionwise to a stirred solution of N-methylmorpholine (0.5 mL) and O-tert-butylhydroxylamine hydrochloride (0.43 g) and 3-[(4′-chloro[1,1′-biphenyl]-4-yl)sulfonyl]-2-[(phenylsulfanyl)methyl]-propanoic acid (0.5 g) in 20 mL of DMF and 20 mL of acetonitrile cooled at −5° C. After stirring at ambient temperature overnight, the resulting solution was diluted with ethyl acetate and sequentially washed with 0.1 M citric acid and 0.1 M NaHCO3. After drying over anhydrous sodium sulfate and removal of the solvent, the crude reaction mixture was treated with trifluoroacetic acid (10 mL) and kept aside for 6 hours. The solvent was removed and the residue was partitioned between ethyl acetate and 0.1 M NaHCO3. After drying, the solvent was evaporated off and the residue was chromatographed on silica gel eluting with chloroform/cyclohexane 2/3 to afford, after crystallization from ethyl acetate, 0.35 g of the title compound, mp . . .

reactant | TBTU | 0,72 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | O-tert-butylhydroxylamine hydrochloride | 0.43 g | Cl.C(C)(C)(C)ON
reactant | 3-[(4′-chloro[1,1′-biphenyl]-4-yl)sulfonyl]-2-[(phenylsulfanyl)methyl]-propanoic acid | 0.5 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CSC1=CC=CC=C1 | C22H19ClO4S2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(4′-chloro[1,1′-biphenyl]-4-yl)sulfonyl]-N-hydroxy-2-[(phenylsulfanyl)methyl]propanamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)CC(C(=O)NO)CSC1=CC=CC=C1 | C22H20ClNO4S2
